US07696213B2
8-Cyclopentyl-6-(3-(hydroxymethyl)phenyl)-4-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin: 7(8H)-one (Compound 148)
6-Bromo-8-cyclopentyl-4-methyl-2-methylamino-8H-pyrido[2,3-d]pyrimidin-7-one (5.00 g, 14.83 mmol), 3-(hydroxymethyl)phenylboronic acid (3.38 g, 22.24 mmol) and Pd(PPh3)4 (0.685 g, 0.593 mmol) were suspended in Toluene (20 mL), MeOH (10 mL) and sat. NaHCO3 (10 mL) and then heated to 100° C. overnight. The reaction was deemed complete by MS and TLC. The organic layer was injected directly onto a column, eluting with CH2Cl2 then 4% MeOH in CH2Cl2. The fractions containing the desired material, as deemed by MS, were combined and evaporated in vacuo to give a greenish beige solid. This was triturated with MeCN and filtered to give crop one, 4.7 g. A second crop was obtained of 0.25 g. A third crop was obtained of 0.10 g. The three crops were deemed to be of sufficient purity based on NMR's and were combined and washed again with MeCN to give a solid (4.39 g, 81.24%).

reactant | 6-Bromo-8-cyclopentyl-4-methyl-2-methylamino-8H-pyrido[2,3-d]pyrimidin-7-one | 14.83 mmol, 5.00 g | BrC1=CC2=C(N=C(N=C2C)NC)N(C1=O)C1CCCC1 | C14H17BrN4O
reactant | 3-(hydroxymethyl)phenylboronic acid | 22.24 mmol, 3.38 g | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | MeOH | 10 mL | CO | CH4O
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | Toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.593 mmol, 0.685 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-Cyclopentyl-6-(3-(hydroxymethyl)phenyl)-4-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin | 4.39 g, 81.24% | C1(CCCC1)N1CC(=CC2=C1N=C(N=C2C)NC)C2=CC(=CC=C2)CO | C21H26N4O
